US05191084
A. 5-bromo-3-(bromomethyl)pyridine
To a solution of 5-bromo-3-pyridylmethanol [see Kauffman, T., and Fischer, H.(1973) Chem. Ber. 106, 220-227.] (0.525 gms, 2.79 mmol) in methylene chloride (2.6 mls) at 0° C. is added pyridine (0.26 mls, 3.21 mmol) then mesyl chloride (0.25 mls, 3.23 mmol). After stirring 2 hours, K2CO3 (0.88 gms, 6.37 mmol) is added. Stirring is continued for one hour and the ice bath is removed. The mixture is diluted with methylene chloride and washed with saturated aqueous NaHCO3. The organic layer is dried over Na2SO4 and evaporated to a viscous residue (>0.6 gms). The residue is dissolved in methylene chloride (8.8 mls) and tetrahydrofuran (4.4 mls) without further purification or characterization. LiBr powder (0.46 gms, 5.53 mmol) is introduced and the reaction is immersed in an oil bath (80° C.) for one hour. The crude mixture is concentrated and resolvated with ethyl acetate. Any remaining residue is pulverized and rinsed with methylene chloride. Combined organics are dried over Na2SO4 and evaporated to a solid (0.7 gms, 2.79 mmol; 100%). 1H NMR (CDCl3, 300 MHz) δ8.65 (s, 1H), 8.55 (s, 1H), 7.90 (s, 1H), 4.45 (s, 2H).

reactant | 5-bromo-3-pyridylmethanol | 2.79 mmol, 0.525 gms | BrC=1C=C(C=NC1)CO | C6H6BrNO
reactant | pyridine | 3.21 mmol, 0.26 mls | N1=CC=CC=C1 | C5H5N
reactant | mesyl chloride | 3.23 mmol, 0.25 mls | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | K2CO3 | 6.37 mmol, 0.88 gms | C(=O)([O-])[O-].[K+].[K+]
reactant | LiBr | 5.53 mmol, 0.46 gms | [Li+].[Br-]
solvent | methylene chloride | 2.6 mls | C(Cl)Cl | CH2Cl2
product | 5-bromo-3-(bromomethyl)pyridine | BrC=1C=C(C=NC1)CBr | C6H5Br2N
